US05834454
A mixture of 4-[N-methyl--N-(2-hydroxyethyl)-amino]-3-nitrobenzotrifluoride (29.0 g, 110 mmol), p-toluenesulfonic acid monohydrate (2.09 g, 11.0 mmol), 3,4-dihydro-2H-pyran (18.5 g, 220 mmol) and tetrahydrofuran (600 ml) was stirred at room temperature for 4.5 hours. Sodium hydrogencarbonate (10 g) was added to the reaction mixture and the resulting mixture was stirred at room temperature for 30 minutes, after which the insoluble materials were filtered off. The filtrate was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane= 5/95) to obtain an oil of 4-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl) oxyethyl]amino]-3-nitrobenzotrifluoride.

reactant | 4-[N-methyl--N-(2-hydroxyethyl)-amino]-3-nitrobenzotrifluoride | 110 mmol, 29.0 g | CN(CCO)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C10H11F3N2O3
reactant | p-toluenesulfonic acid monohydrate | 11.0 mmol, 2.09 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3,4-dihydro-2H-pyran | 220 mmol, 18.5 g | O1CCCC=C1 | C5H8O
reactant | Sodium hydrogencarbonate | 10 g | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 4-[N-methyl-N-[2-(2-tetrahydro-2H-pyranyl) oxyethyl]amino]-3-nitrobenzotrifluoride | CN(CCOC1OCCCC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C15H19F3N2O4
